US08580785B2
e) Preparation of 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one
To a suspension of 300 mg (1.31 mmol) of 6-amino-7-chloro-benzo[1,2,5]thiadiazole-5-carboxylic acid in 12 ml of acetonitrile, is added 381 mg (1.31 mmol) of 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid followed by 0.47 ml (5.88 mmol) of pyridine. The mixture is stirred at ambient temperature during 30 min. Then the suspension is cooled at a temperature of 0° C. and 0.36 ml (4.57 mmol) of methanesulfonyl chloride is added dropwise. The mixture is stirred at a temperature of 0° C. during 30 min and 2 hours at ambient temperature. Then the solvent is evaporated and the residue is precipitated in a minimum of cold H2O. After filtration and washing of the solid with a minimum of cold H2O, 585 mg (1.21 mmol, 92%) of a dark violet solid is obtained. LC/MS: 485/487 (M+1)+.

reactant | 6-amino-7-chloro-benzo[1,2,5]thiadiazole-5-carboxylic acid | 1.31 mmol, 300 mg | NC1=C(C=2C(=NSN2)C=C1C(=O)O)Cl | C7H4ClN3O2S
reactant | 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 1.31 mmol, 381 mg | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(F)(F)F | C10H5ClF3N3O2
reactant | pyridine | 5.88 mmol, 0.47 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 4.57 mmol, 0.36 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | 1.21 mmol, 585 mg, 92% | ClC=1C=2C(C=C3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)=NSN2 | C17H5Cl2F3N6O2S
